reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[O+:1](=[C:2]([N:3]([C-:4]([H:10])[H:11])[H:9])[H:8])[C:7](=[C:6]=[C:5]([H:12])[H:13])[H:14]>>[O:1]=[C:2]([N:3]([C:4]([C:5]([C:6]#[C:7][H:14])([H:12])[H:13])([H:10])[H:11])[H:9])[H:8],23.462855506196988
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]#[C:5][H:14])[C:6]#[C:7][H:15])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:5](=[C:4])[H:14])[C:6]#[C:7][H:15])([H:8])([H:9])[H:10],64.289938900327
[O:1]=[C:2]([O+:4]=[C-:3][C:5]#[C:6][H:8])[H:7]>>[O:1]=[C:2]([C:3](=[O:4])[C:5]#[C:6][H:8])[H:7],14.877602698495295
[O:1]=[C:2]([C@@:3]1([H:7])[C:4]([H:8])([H:9])[N:5]1[H:10])[H:6]>>[O:1]=[C:2]([C@@:3]1([H:7])[C-:4]([H:9])[N+:5]1([H:8])[H:10])[H:6],66.8328797286803
[C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([C:5]([H:16])([H:17])[H:18])[N+:7]#[C-:6])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([C:5]([H:16])([H:17])[H:18])[C:6]#[N:7])([H:11])[H:12])([H:8])([H:9])[H:10],42.2461313040223
[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4]#[C:5][H:13])[H:9])([H:6])([H:7])[H:8]>>[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])=[C:4]=[C:5]([H:9])[H:13])([H:6])([H:7])[H:8],77.9599582084828
[C:1]([O:2][C@@:3]([N:4]([H:11])[H:13])([N:5]=[C:6]=[O:7])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2]/[C:3](=[N:4]\[H:11])[N:5]([C:6](=[O:7])[H:13])[H:12])([H:8])([H:9])[H:10],103.96847186487278
[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([O:4][H:13])[C:5]#[N:6])([H:7])([H:8])[H:9]>>[C:1]([C:2]1([C:3]([H:10])([H:11])[H:12])[C:5]([O:4][H:13])=[N:6]1)([H:7])([H:8])[H:9],82.1642871559665
[O:1]=[C:2]([N:3]([C:4]([C:5]#[C:6][H:11])([H:9])[H:10])[H:8])[H:7]>>[N:3](=[C:4]([H:9])[H:10])[H:8].[O:1]=[C:2]([C:5]#[C:6][H:11])[H:7],92.77793108295499
[C:1]([N+:2]([C:3]([O-:4])=[C:5]([O:6][H:13])[H:11])([H:10])[H:12])([H:7])([H:8])[H:9]>>[C:1]([N:2]([C:3](=[O:4])[C:5]([O:6][H:13])([H:11])[H:12])[H:10])([H:7])([H:8])[H:9],34.6634985875211
[C:1]([N:5]([C:6]([H:13])([H:14])[H:15])[H:12])([H:7])([H:8])[H:9].[C:2](=[C:3]=[O:4])([H:10])[H:11]>>[C:1]([C:2]([C:3](=[O:4])[N:5]([C:6]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],71.2713949909132
[C:1]([C@@:2]1([H:15])[C:3]([H:11])([H:12])[C@@:4]2([H:13])[O:5][C@:6]1([H:14])[C:7]2)([H:8])([H:9])[H:10]>>[C:1]([C@@:2]12[C:3]([H:11])([H:12])[C@@:4]3([H:13])[O:5][C@:6]1([H:14])[C@@:7]23[H:15])([H:8])([H:9])[H:10],23.357704949574398
[H:8][H:12].[O:1]1[C:2]([H:7])=[C:3]([H:9])[C:4]([H:10])([H:11])[C:5]1=[O:6]>>[O:1]=[C:2]([C:3]([C:4]([C:5](=[O:6])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7],55.1202902054026
[C:1]([C-:2]1[C:3]([H:11])([H:12])[C+:4]([O:5][H:10])[C:6]1([H:13])[H:14])([H:7])([H:8])[H:9]>>[C:1]([C:2]1([H:10])[C:3]([H:11])([H:12])[C:4](=[O:5])[C:6]1([H:13])[H:14])([H:7])([H:8])[H:9],6.1978304339001085
[N:1]1([H:7])[C:2](=[O:6])[C@:3]1([C:4](=[C:5]([H:10])[H:11])[H:9])[H:8]>>[N:1](=[C:2]1/[C:3]([H:8])=[C:4]([H:9])[C:5]([H:10])([H:11])[O:6]1)\[H:7],34.83868746630229
[C:1]([O:6][C:5](=[C:2]1[C:3]([H:10])([H:11])[C:4]1([H:12])[H:13])[H:14])([H:7])([H:8])[H:9]>>[C:1]([C:2]1([C:5](=[O:6])[H:14])[C:3]([H:10])([H:11])[C:4]1([H:12])[H:13])([H:7])([H:8])[H:9],73.31285953999969
[C:1]([O:2][C:3](=[O:4])[C:5]([C:6](=[O:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3](=[O:4])/[C:5](=[C:6](/[O:7][H:12])[H:13])[H:11])([H:8])([H:9])[H:10],59.043690212339
[C:1]([O:2][C:3]([C:4]([C:5]#[C:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([O:2][C:3]([C:6](=[C:5]=[C:4]([H:12])[H:13])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9],75.61983827141809
[C:1]([C@@:2]([O:3][C:4](=[O:5])[H:12])([C:6]#[C:7][H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[C:6]=[C:7]([O:5][C:4](=[O:3])[H:12])[H:13])[H:11])([H:8])([H:9])[H:10],42.2569250709207
[O:1]([C:2]([C:3]([O:4]/[C:5](=[N:6]/[H:13])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7]>>[O:1]([C@@:2]1([H:8])[C:3]([H:10])([H:11])[O:4][C@:5]1([N:6]([H:7])[H:13])[H:12])[H:9],102.08212280542
[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5]#[C:6][H:14])[H:13])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C-:4]=[C:5]=[C+:6][H:14])[H:10])([H:7])([H:8])[H:9],65.07068954160249
[O:1]([C:2]([C:3]([N:5]([C+:4]([H:11])[H:12])[H:13])=[C:6]([O-:7])[H:14])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C@@:3]1([C:6](=[O:7])[H:14])[C:4]([H:11])([H:12])[N:5]1[H:13])([H:9])[H:10])[H:8],33.110582156347796
[C-:1]([O+:2]=[C:3]([C:4]([C:5]([H:13])([H:14])[H:15])([C:6]([H:16])([H:17])[H:18])[C:7]([H:19])([H:20])[H:21])[H:12])([H:9])[H:10].[H:8][H:11]>>[C:1]([O:2][C:3]([C:4]([C:5]([H:13])([H:14])[H:15])([C:6]([H:16])([H:17])[H:18])[C:7]([H:19])([H:20])[H:21])([H:11])[H:12])([H:8])([H:9])[H:10],0.7175442635739984
[C:1](=[C:2])([C:3]([C:4]#[N:5])([H:7])[H:8])[H:6]>>[C:1](#[C:2][C:3]([C:4]#[N:5])([H:7])[H:8])[H:6],15.849065800913685
[C:1]([O+:2]=[C-:3][C:4]([H:10])([H:11])[H:12])([H:6])([H:7])[H:8].[C:5]([H:9])([H:13])([H:14])[H:15]>>[C:1]([O:2][C:3]([C:4]([H:10])([H:11])[H:12])([C:5]([H:13])([H:14])[H:15])[H:9])([H:6])([H:7])[H:8],27.884056338891185
